US07495007B2
Preparation of intermediate E/Z-6-Chloro-3-[5-chloro-2-(2-hydroxy-ethoxy)-benzylidene]-1,3-dihydro-indol-2-one
Acetic acid 2-(4-chloro-2-formyl-phenoxy)-ethyl ester (1.5 g, 9.3 mmol) and 6-chlorooxindole (2.7 g, 11.2 mmol) were mixed in anhydrous methanol (20 mL) at room temperature. Then Pyrrolidine (0.8 g, 11.2 mmol) was added slowly. The reaction mixture was heated at 70° C. for 3 h, then cooled to r.t and the precipitation was collected by filtration to obtain title compound as a yellow solid (1.4 g).

reactant | Acetic acid 2-(4-chloro-2-formyl-phenoxy)-ethyl ester | 9.3 mmol, 1.5 g | ClC1=CC(=C(OCCOC(C)=O)C=C1)C=O | C11H11ClO4
reactant | 6-chlorooxindole | 11.2 mmol, 2.7 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | Pyrrolidine | 11.2 mmol, 0.8 g | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-Chloro-3-[5-chloro-2-(2-hydroxy-ethoxy)-benzylidene]-1,3-dihydro-indol-2-one | 1.4 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCCO | C17H13Cl2NO3
